US04880809
Using 7-methoxy-1,2-dihydro-3-naphthoic acid (0.5 g), 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride (1.1 g), triethylamine (0.81 g), N,N-dimethylformamide (20 ml) and diethyl phosphorocyanidate (1 ml), an amidation is carried out in a manner as that described in Example 6. The reaction product is purified by silica gel column chromatography (hexane:acetone=1:1-1:2) to afford an oily product, which is converted to the hydrochloride in ethyl acetate to give 1-(7-methoxyethoxy-1,2-dihydro-3-naphthoyl)- 4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride (0.8 g) as colorless crystals, m.p. 187°-190° C.

reactant | 7-methoxy-1,2-dihydro-3-naphthoic acid | 0.5 g | COC1=CC=C2C=C(CCC2=C1)C(=O)O | C12H12O3
reactant | 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride | 1.1 g | Cl.Cl.COC=1C=C(CN2CCNCC2)C=C(C1OC)OC
reactant | diethyl phosphorocyanidate | 1 ml | P(OCC)(OCC)(=O)C#N | C5H10NO3P
reactant | hydrochloride | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.81 g | C(C)N(CC)CC | C6H15N
product | 1-(7-methoxyethoxy-1,2-dihydro-3-naphthoyl)- 4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride | 0.8 g | Cl.COCCOC1=CC=C2C=C(CCC2=C1)C(=O)N1CCN(CC1)CC1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C28H36N2O6.ClH/c1-32-13-14-36-24-8-7-21-17-23(6-5-22(21)18-24)28(31)30-11-9-29(10-12-30)19-20-15-25(33-2)27(35-4)26(16-20)34-3;/h7-8,15-18H,5-6,9-14,19H2,1-4H3;1H
